US07635715B2
Step B: Preparation of N-((6-(2-Methylphenyl)-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycine
1,1-Dimethylethyl N-((6-(2-methylphenyl)-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycinate (160 mg, 367 μmol) was dissolved in TFA (2 mL) at ambient temperature. The reaction was stirred for 30 minutes and then concentrated, precipitated with hexanes, filtered, washed with hexanes, and dried in a vacuum oven to give the title compound (57 mg) as a light yellow solid. MS (m/z)=380 (M+H)+. Calculated for C22H21NO5 379.14.

reactant | 1,1-Dimethylethyl N-((6-(2-methylphenyl)-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycinate | 367 μmol, 160 mg | CC1=C(C=CC=C1)C=1C=C2C(=C(C(C(C2=CC1)(C)C)=O)C(=O)NCC(=O)OC(C)(C)C)O | C26H29NO5
solvent | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-((6-(2-Methylphenyl)-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycine | 57 mg | CC1=C(C=CC=C1)C=1C=C2C(=C(C(C(C2=CC1)(C)C)=O)C(=O)NCC(=O)O)O | C22H21NO5
